US07989461B2
A solution of 6-methyl-N1-(3-(methylthio)phenyl)-N5-(3-(pyrimidin-4-yl)pyridin-2-yl)isoquinoline-1,5-diamine (0.250 g, 0.555 mmol) in THF (30 mL) and MeOH (20 mL) was stirred in an ice bath and treated with a solution of Oxone®m (0.750 g, 1.22 mmol) in water (10 mL). The resulting cloudy reaction mixture was stirred at 0° C. (warming slowly to ˜10° C.) for 3 h. The reaction mixture was quenched at 0° C. by the addition of satd aq Na2SO3 (100 mL) and stirred at that temperature for 15 min. The mixture was concentrated in vacuo to remove THF and the remaining aqueous mixture was extracted with 3:1 CHCl3:IPA (3×100 mL). The organic extract was washed with saturated aqueous NaCl (50 mL), dried over Na2SO4, filtered, and concentrated in vacuo to afford a yellow solid. The crude product was adsorbed onto a plug of silica gel and chromatographed through a Redi-Sep® pre-packed silica gel column (40 g), eluting with a gradient of 1% to 8% MeOH in CH2Cl2, to provide 6-methyl-N1-(3-(methylsulfonyl)phenyl)-N5-(3-(pyrimidin-4-yl)pyridin-2-yl)isoquinoline-1,5-diamine. MS (M+H)+ 483.5.

reactant | 6-methyl-N1-(3-(methylthio)phenyl)-N5-(3-(pyrimidin-4-yl)pyridin-2-yl)isoquinoline-1,5-diamine | 0.555 mmol, 0.250 g | CC1=C(C=2C=CN=C(C2C=C1)NC1=CC(=CC=C1)SC)NC1=NC=CC=C1C1=NC=NC=C1 | C26H22N6S
reactant | Oxone | OOS(=O)[O-].[K+]
reactant | THF | 30 mL | C1CCOC1 | C4H8O
solvent | MeOH | 20 mL | CO | CH4O
solvent | water | 10 mL | O | H2O
product | 6-methyl-N1-(3-(methylsulfonyl)phenyl)-N5-(3-(pyrimidin-4-yl)pyridin-2-yl)isoquinoline-1,5-diamine | CC1=C(C=2C=CN=C(C2C=C1)NC1=CC(=CC=C1)S(=O)(=O)C)NC1=NC=CC=C1C1=NC=NC=C1 | C26H22N6O2S
